US07582626B2
a) (1S,2R)-Cyclohexane-1,2-dicarboxylic acid monomethyl ester
(1S,2R)-Cyclohexane-1,2-dicarboxylic acid monomethyl ester was prepared as described in J. Org. Chem. 2000, 65, 6984-6991. cis-1,2-Cyclohexanedicarboxylic anhydride (4.48 g, 29.1 mmol) was suspended in a 1:1 mixture of toluene and carbon tetrachloride (582 mL). The mixture was stirred for 20 min. Quinine (10.38 g, 32 mmol) was added and the flask was degassed and backfilled with nitrogen. The solution was cooled to −55° C. While stirring, methanol (3.55 mL, 87.3 mmol) was added dropwise. The mixture was stirred at −55° C. for 20 h. Upon warming to 25° C., the mixture was concentrated in vacuo to dryness. The resulting residue was dissolved in ethyl acetate (400 mL), washed with 3.0 M aqueous hydrochloric acid solution (2×150 mL), saturated aqueous brine solution (100 mL), dried over magnesium sulfate, filtered, and concentrated in vacuo to afford the desired product, (1S,2R)-cyclohexane-1,2-dicarboxylic acid monomethyl ester (5.41 g, 29.1 mmol, 100%), as a light yellow oil. 1H NMR (400 MHz, CDCl3) δ: 1.37-2.05 (8H, m), 2.84-2.86 (2H, m), 3.68 (3H, s), 11.47 (1H, s).

reactant | cis-1,2-Cyclohexanedicarboxylic anhydride | 29.1 mmol, 4.48 g | [C@@H]12[C@@H](CCCC1)C(=O)OC2=O | C8H10O3
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | Quinine | 32 mmol, 10.38 g | COC=1C=CC2=C(C1)C(=CC=N2)[C@H]([C@@H]3C[C@@H]4CCN3C[C@@H]4C=C)O | C20H24N2O2
reactant | methanol | 87.3 mmol, 3.55 mL | CO | CH4O
solvent | carbon tetrachloride | 582 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | (1S,2R)-cyclohexane-1,2-dicarboxylic acid monomethyl ester | 29.1 mmol, 5.41 g, 100% | COC(=O)[C@@H]1[C@@H](CCCC1)C(=O)O | C9H14O4
